US07968746B2
Following the amide coupling procedure described in protocol A, 500 mg 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (2.00 mmol), 356 mg CDI (2.20 mmol) and 1.1 mL of a 2.0 solution of ethylamine in methanol (2.2 mmol) produced 334 mg of as N-ethyl-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide as a white solid.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 2.00 mmol, 500 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 2.20 mmol, 356 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | ethylamine | C(C)N | C2H7N
reactant | methanol | 2.2 mmol | CO | CH4O
product | N-ethyl-6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide | C(C)NC(=O)C1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C16H23NO3
